.SUBCKT SDFFNX1H7R CKN D Q QN SE SI VDD VSS
*.PININFO CKN:I D:I SE:I SI:I Q:O QN:O VDD:B VSS:B
XXI9 net44 net42 net69 VDD VSS net51 / TSINV pl=60n pw=300n nl=60n nw=220n
XXI21 D net56 SE VDD VSS net76 / TSINV pl=60n pw=280n nl=60n nw=200n
XXI22 SI SE net56 VDD VSS net76 / TSINV pl=60n pw=250n nl=60n nw=200n
XXI15 net48 net69 net42 VDD VSS net51 / TSINV pl=60n pw=150n nl=60n nw=150n
XXI14 net44 net42 net69 VDD VSS net39 / TSINV pl=60n pw=150n nl=60n nw=150n
XXI23 SE VDD VSS net56 / INV pl=60n pw=280n nl=60n nw=200n
XXI10 net51 VDD VSS net48 / INV pl=60n pw=280n nl=60n nw=200n
XXI12 net51 VDD VSS Q / INV pl=60n pw=340n nl=60n nw=240n
XXI4 CKN VDD VSS net42 / INV pl=60n pw=280n nl=60n nw=200n
XXI5 net48 VDD VSS QN / INV pl=60n pw=340n nl=60n nw=240n
XXI7 net39 VDD VSS net44 / INV pl=60n pw=300n nl=60n nw=220n
XXI13 net42 VDD VSS net69 / INV pl=60n pw=280n nl=60n nw=200n
XXI6 net69 net42 net76 net39 VDD VSS / TG pl=60n pw=280n nl=60n nw=200n
.ENDS
