.SUBCKT SDFFQX1H7R CK D Q SE SI VDD VSS
*.PININFO CK:I D:I SE:I SI:I Q:O VDD:B VSS:B
XXI15 net9 cn c VDD VSS net25 / TSINV pl=60n pw=150n nl=60n nw=150n
XXI9 net46 c cn VDD VSS net25 / TSINV pl=60n pw=300n nl=60n nw=220n
XXI16 D sen SE VDD VSS net050 / TSINV pl=60n pw=300n nl=60n nw=220n
XXI18 SI SE sen VDD VSS net050 / TSINV pl=60n pw=250n nl=60n nw=200n
XXI14 net46 c cn VDD VSS net33 / TSINV pl=60n pw=150n nl=60n nw=150n
XXI4 CK VDD VSS cn / INV pl=60n pw=280n nl=60n nw=200n
XXI10 net25 VDD VSS net9 / INV pl=60n pw=280n nl=60n nw=200n
XXI12 net25 VDD VSS Q / INV pl=60n pw=340n nl=60n nw=240n
XXI13 cn VDD VSS c / INV pl=60n pw=280n nl=60n nw=200n
XXI7 net33 VDD VSS net46 / INV pl=60n pw=300n nl=60n nw=220n
XXI19 SE VDD VSS sen / INV pl=60n pw=280n nl=60n nw=200n
XXI17 cn c net050 net33 VDD VSS / TG pl=60n pw=300n nl=60n nw=220n
.ENDS
