.SUBCKT SDFFRX0P5H7R CK D Q QN RN SE SI VDD VSS
*.PININFO CK:I D:I RN:I SE:I SI:I Q:O QN:O VDD:B VSS:B
MMN1 net099 cn net36 VSS nm1p2_svt_lp W=150n L=60n m=1
MMN2 net36 net0146 VSS VSS nm1p2_svt_lp W=150n L=60n m=1
MMN5 net099 r VSS VSS nm1p2_svt_lp W=150n L=60n m=1
MMN4 net46 net33 VSS VSS nm1p2_svt_lp W=200n L=60n m=1
MMP4 net54 r VDD VDD pm1p2_svt_lp W=200n L=60n m=1
MMP2 net67 net0146 net54 VDD pm1p2_svt_lp W=150n L=60n m=1
MMP1 net099 c net67 VDD pm1p2_svt_lp W=150n L=60n m=1
MMP3 net46 net33 net54 VDD pm1p2_svt_lp W=280n L=60n m=1
XXI29 net46 c cn VDD VSS net33 / TSINV pl=60n pw=150n nl=60n nw=150n
XXI33 SI SE sen VDD VSS net076 / TSINV pl=60n pw=250n nl=60n nw=200n
XXI30 D sen SE VDD VSS net076 / TSINV pl=60n pw=280n nl=60n nw=240n
XXI9 c cn net46 net099 VDD VSS / TG pl=60n pw=280n nl=60n nw=200n
XXI32 cn c net076 net33 VDD VSS / TG pl=60n pw=280n nl=60n nw=200n
XXI34 SE VDD VSS sen / INV pl=60n pw=280n nl=60n nw=200n
XXI12 net099 VDD VSS QN / INV pl=60n pw=280n nl=60n nw=200n
XXI31 RN VDD VSS r / INV pl=60n pw=280n nl=60n nw=200n
XXI5 net0146 VDD VSS Q / INV pl=60n pw=280n nl=60n nw=200n
XXI13 cn VDD VSS c / INV pl=60n pw=280n nl=60n nw=200n
XXI10 net099 VDD VSS net0146 / INV pl=60n pw=280n nl=60n nw=240n
XXI4 CK VDD VSS cn / INV pl=60n pw=280n nl=60n nw=200n
.ENDS
